US04320133
(a) 3-Cyano-6,8-dichlorochromon
15 g of 6,8-dichlorochromon-3-aldehyde, 5.43 g of hydroxylamine hydrochloride, 7.55 g of sodium formamide and 100 ml of formic acid are mixed at room temperature and refluxed for 4 hours. After a further 18 hours at room temperature, the precipitate is separated and the filtrate is poured into 1 l of water. The resulting precipitate is filtered off and washed twice with water and twice with ethanol to obtain the heading compound, m.p. 150°.

reactant | 6,8-dichlorochromon-3-aldehyde | 15 g | ClC=1C=C2C(C(=COC2=C(C1)Cl)C=O)=O | C10H4Cl2O3
reactant | hydroxylamine hydrochloride | 5.43 g | Cl.NO
reactant | sodium formamide | 7.55 g | C(=O)N.[Na]
solvent | formic acid | 100 ml | C(=O)O | CH2O2
product | 3-Cyano-6,8-dichlorochromon | C(#N)C1=COC2=C(C=C(C=C2C1=O)Cl)Cl | C10H3Cl2NO2
